### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus/Deriv/Inverse): add `deriv_zero_of_frequently_mem`

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that if a function frequently (in `𝓝[s ∖ {x}]`) takes values in a set `t` that does not
accumulate at `f x`, then its derivative at `x` equals zero. The application that I have in mind is where this set is closed and discrete (and thus has no accumulation points).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Equiv.lean [hunk 1]
```diff
@@ -414,10 +414,30 @@ theorem HasFDerivWithinAt.eventually_ne (h : HasFDerivWithinAt f f' s x)
     simpa [not_imp_not, sub_eq_zero] using (A.trans this.isBigO_symm).eq_zero_imp
   · exact (h.continuousWithinAt.eventually_ne hc).filter_mono <| by gcongr; apply diff_subset
 
+theorem HasFDerivWithinAt.eventually_notMem_discrete {t : Set F}
+    (ht : IsDiscrete t) (ht' : IsClosed t) (h : HasFDerivWithinAt f f' s x)
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: This lemma merges ~~2~~3 facts:

- a similar lemma assuming that `f x` is not an accumulation point of `t` instead of `ht` and `ht'`;
- a point of a discrete set is not an accumulation point of this set;
- a discrete closed set has no accumulation points (the lemma above + `AccPt.clusterPt.mem_closure`);

Comment (urkud) [reply Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: I think that it makes sense to have all of them in the library.

Comment (tb65536) [reply Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: Good point. I'll do the discrete/closed stuff in a separate PR.

File: Mathlib/Analysis/Calculus/Deriv/Inverse.lean [hunk 2]
```diff
@@ -89,19 +89,32 @@ theorem OpenPartialHomeomorph.hasDerivAt_symm (f : OpenPartialHomeomorph 𝕜 
...
+  simpa only [compl_eq_univ_diff] using (hasDerivWithinAt_univ.2 h).tendsto_nhdsWithin_nhdsNE hf'
+
 theorem HasDerivAt.eventually_ne (h : HasDerivAt f f' x) (hf' : f' ≠ 0) :
     ∀ᶠ z in 𝓝[≠] x, f z ≠ c := by
   simpa only [compl_eq_univ_diff] using (hasDerivWithinAt_univ.2 h).eventually_ne hf'
 
-theorem HasDerivAt.tendsto_nhdsNE (h : HasDerivAt f f' x) (hf' : f' ≠ 0) :
-    Tendsto f (𝓝[≠] x) (𝓝[≠] f x) :=
-  tendsto_nhdsWithin_of_tendsto_nhds_of_eventually_within _ h.continuousAt.continuousWithinAt
-    (h.eventually_ne hf')
```
Comment (tb65536) [inline Mathlib/Analysis/Calculus/Deriv/Inverse.lean:104]: (I shifted this up for uniformity in the order of the theorems and the method of proof)

File: Mathlib/Analysis/Calculus/Deriv/Inverse.lean [hunk 3]
```diff
@@ -113,13 +126,31 @@ theorem derivWithin_zero_of_frequently_const {c} (h : ∃ᶠ y in 𝓝[s \ {x}]
     exact hf.hasDerivWithinAt.eventually_ne h
   · exact derivWithin_zero_of_not_differentiableWithinAt hf
 
+/-- If a function is frequently valued in a set that does not accumulate to `f x`,
+then its derivative within `s` at `x` equals zero,
+either because it has derivative zero or because it isn't differentiable at this point. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/Deriv/Inverse.lean]: This language was also used in the PR description, and I found it hard to parse in both places. How about this?
```suggestion
/-- If a function is frequently (in `𝓝[s ∖ {x}]`) takes values in a set `t` that does not
accumulate at `f x`, then its derivative within `s` at `x` equals zero,
either because it has derivative zero or because it isn't differentiable at this point. -/
```
Please update the other places where this language occurs accordingly.

File: Mathlib/Analysis/Calculus/FDeriv/Equiv.lean [hunk 4]
```diff
@@ -404,20 +404,43 @@ theorem OpenPartialHomeomorph.hasFDerivAt_symm (f : OpenPartialHomeomorph E F) {
     HasFDerivAt f.symm (f'.symm : F →L[𝕜] E) a :=
   htff'.of_local_left_inverse (f.symm.continuousAt ha) (f.eventually_right_inverse ha)
 
+theorem HasFDerivWithinAt.tendsto_nhdsWithin_nhdsNE (h : HasFDerivWithinAt f f' s x)
+    (hf' : ∃ C, ∀ z, ‖z‖ ≤ C * ‖f' z‖) : Tendsto f (𝓝[s \ {x}] x) (𝓝[≠] f x) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: How do you feel about using this spelling? I think it's a nicer way to phrase it.
```suggestion
theorem HasFDerivWithinAt.tendsto_nhdsWithin_nhdsNE (h : HasFDerivWithinAt f f' s x)
    (hf' : ∃ C, AntilipschitzWith C f') : Tendsto f (𝓝[s \ {x}] x) (𝓝[≠] f x) := by
```

File: Mathlib/Analysis/Calculus/FDeriv/Equiv.lean [hunk 5]
```diff
@@ -404,20 +404,43 @@ theorem OpenPartialHomeomorph.hasFDerivAt_symm (f : OpenPartialHomeomorph E F) {
...
+
+theorem HasFDerivAt.tendsto_nhdsNE (h : HasFDerivAt f f' x)
+    (hf' : ∃ C, ∀ z, ‖z‖ ≤ C * ‖f' z‖) : Tendsto f (𝓝[≠] x) (𝓝[≠] f x) := by
+  simpa only [compl_eq_univ_diff] using (hasFDerivWithinAt_univ.2 h).tendsto_nhdsWithin_nhdsNE hf'
 
 theorem HasFDerivAt.eventually_ne (h : HasFDerivAt f f' x) (hf' : ∃ C, ∀ z, ‖z‖ ≤ C * ‖f' z‖) :
     ∀ᶠ z in 𝓝[≠] x, f z ≠ c := by
   simpa only [compl_eq_univ_diff] using (hasFDerivWithinAt_univ.2 h).eventually_ne hf'
 
+theorem HasFDerivAt.eventually_notMem (h : HasFDerivAt f f' x) (hf' : ∃ C, ∀ z, ‖z‖ ≤ C * ‖f' z‖)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: likewise for these

File: Mathlib/Analysis/Calculus/FDeriv/Equiv.lean (hunk 4 above)
Comment (tb65536) [reply Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: I don't think this is correct unless `f' 0 = 0` (because `AntilipschitzWith C f'` says that `edist x y ≤ C * edist (f' x) (f' y)`).

Comment (j-loreaux) [reply Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: @tb65536 `f'` is a linear map, so `f' 0 = 0` comes for free.

Comment (tb65536) [reply Mathlib/Analysis/Calculus/FDeriv/Equiv.lean]: Bah, of course, silly me.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
